US08030308B2
A solution of (2-amino-4-bromo-phenyl)-methanol (1.53 g, 7.57 mmol) in pyridine (15 mL) was treated with 5-chloro-2-methoxybenzenesulfonyl chloride (1.85 g, 7.57 mmol) at room temperature and stirred for 72 h, then poured upon ice-cold 2 M aq. hydrochloric acid solution and extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated to produce a gummy residue, from which the product was precipitated by addition of toluene. The precipitate was collected by filtration and dried to afford N-(5-bromo-2-hydroxymethyl-phenyl)-5-chloro-2-methoxy-benzenesulfonamide (2.51 g, 82%). Off-white solid, MS (ISP)=404.2 (M−H)−.

reactant | (2-amino-4-bromo-phenyl)-methanol | 7.57 mmol, 1.53 g | NC1=C(C=CC(=C1)Br)CO | C7H8BrNO
reactant | 5-chloro-2-methoxybenzenesulfonyl chloride | 7.57 mmol, 1.85 g | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-bromo-2-hydroxymethyl-phenyl)-5-chloro-2-methoxy-benzenesulfonamide | 2.51 g, 82% | BrC=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)Cl)OC)CO | C14H13BrClNO4S
